US05223498
A mixture of 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide (1 g), dimethylamine (1 ml of a 33% solution in ethanol) and ethanol (2 ml) was kept at ambient temperature for 48 days. The mixture was then cooled in an ice bath. The resulting solid was separated by filtration, treated which dilute aqueous sodium hydroxide solution (5 ml) and the resulting mixture extracted with dichloromethane (2×50 ml). The extract was washed with brine, dried and the solvent removed by evaporation to give 1,1-dimethyl-2-(2-morpholinophenyl)guanidine (m.p. 143°-144° C.) which was recrystallised from hexane.

reactant | 2-methyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide | 1 g | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=N
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1,1-dimethyl-2-(2-morpholinophenyl)guanidine | CN(C(=NC1=C(C=CC=C1)N1CCOCC1)N)C | C13H20N4O
